US05532235
6,7,8,9-Tetrahydro-5H-pyrido[3,2-b]azepine
A mixture of 1.56 g of 5,7,8,9-tetrahydro-6H-pyrido[3,2-b]azepine-6-one, 3.31 g of lithium aluminum hydride in 40 ml of tetrahydrofuran is refluxed for 4 hours. The mixture is cooled (0° C.) and 25 ml of methanol is added dropwise. The mixture is filtered through diatomaceous earth, the filter cake washed with tetrahydrofuran and the filtrate concentrated to dryness under vacuum. Water (50 ml) is added to the residue and the mixture extracted with diethyl ether. The extract is dried (Na2SO4) and filtered through a thin pad of hydrous magnesium silicate (pad washed with) diethyl ether. The filtrate is concentrated under vacuum to give 1.01 g of crystals, m.p. 70°-71° C.

reactant | 5,7,8,9-tetrahydro-6H-pyrido[3,2-b]azepine-6-one | 1.56 g | N1=CC=CC=2NC(CCCC21)=O | C9H10N2O
reactant | lithium aluminum hydride | 3.31 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methanol | 25 ml | CO | CH4O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 6,7,8,9-Tetrahydro-5H-pyrido[3,2-b]azepine | 1.01 g | N1=CC=CC=2NCCCCC21 | C9H12N2
